US05135955
A solution of 117 g of 4-octyloxybenzaldehyde and 58.5 g of phenylacetonitrile in methanol was stirred at room temperature and aqueous (50 percent) sodium hydroxide was added dropwise. The addition of base was stopped upon formation of a precipitate and the resultant mixture was stirred overnight at room temperature. The mixture was then poured into a large volume of water and fitered to collect the solids which were washed with water to yield the intermediate, α-[[4-(octyloxy)phenyl]methylene]benzeneacetonitrile. 101.5 Grams of this intermediate nitrile, 25 g of Raney nickel, 150 ml of anhydrous ammonia and 200 ml of tetrahydrofuran were stirred at 140° C. for 10 hours at a pressure of 2,000 psi. The catalyst and solvent were then removed and the residue was taken up in diethyl ether and then filtered through magnesia-silica gel. The hydrochloride salt of the title compound was made in the filtrate by the addition of anhydrous hydrochloric acid. The hydrochloride salt was recovered by recrystallization from ethanol to yield 4-(octyloxy)-β-phenylbenzenepropanamine hydrochloride (18 percent yield), m.p. 127°, decomposition (dec.).

reactant | 4-octyloxybenzaldehyde | 117 g | C(CCCCCCC)OC1=CC=C(C=O)C=C1 | C15H22O2
reactant | phenylacetonitrile | 58.5 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | α-[[4-(octyloxy)phenyl]methylene]benzeneacetonitrile | C(CCCCCCC)OC1=CC=C(C=C1)C=C(C#N)C1=CC=CC=C1 | C23H27NO
